US07449467B2
(1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylic acid
To a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylate (1.60 g, 5.14 mmol) in tetrahydrofuran (27.8 mL), methanol (27.8 mL) and water (6.0 mL) was added lithium hydroxide monohydrate (0.346 g, 8.25 mmol). The pink mixture was heated to reflux for 18 h. The organic solvents were removed in vacuo and the aqueous layer was extracted once with ether and then acidified slowly with 6 M HCl until the pH reached 3-4. The resulting suspension was extracted with CH2Cl2 three times. The combined organic layers were dried over MgSO4, filtered and concentrated to give the product as a mixture of two cis/trans isomers (1.59 g) as a light yellow solid. MS calculated for C15H24NO5: (M+H) 298.2; found 198.2 (M+H-Boc).

reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylate | 5.14 mmol, 1.60 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)[C@@H]1COCC1 | C16H25NO5
reactant | lithium hydroxide monohydrate | 8.25 mmol, 0.346 g | O.[OH-].[Li+]
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | tetrahydrofuran | 27.8 mL | O1CCCC1 | C4H8O
solvent | methanol | 27.8 mL | CO | CH4O
solvent | water | 6.0 mL | O | H2O
product | (1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)O)[C@@H]1COCC1 | C15H23NO5
